USRE028935
1-(β-Methoxy-ethyl)-5-phenyl-7-chloro-1H-1,5-benzodiazepine-2,4-(3H,5H)-dione by method A
28.6 gm (0.1 mol) of 5-phenyl-7-chloro-1H-1,5-benzodiazepine-2,4-(3H,5H)-dione were suspended in 750 ml of absolute tetrahydrofuran, 5 gm of a 50% dispersion of sodium hydride in tetrahydrofuran were added to the Suspension and the mixture was stirred for two hours at room temperature, whereby everything went into solution. 21-28 gm (0.15 - 0.2 mol) of β-bromo-ethyl methyl ether were then added to the solution, and the resulting mixture was refluxed for 15-20 hours. Thereafter, the reaction solution was evaporated in vacuo, residue was admixed with water, and the aqueous mixture was extracted with methylene chloride. The methylene chloride extract was vacuum-filtered to remove insoluble components, the filtrate was evaporated, and the residue was recrystallized from isopropyl ether, yielding 22 gm (64% of theory) of the compound of the formula ##SPC7##

reactant | 5-phenyl-7-chloro-1H-1,5-benzodiazepine-2,4-(3H,5H)-dione | 0.1 mol, 28.6 gm | C1(=CC=CC=C1)N1C(CC(NC2=C1C=C(C=C2)Cl)=O)=O | C15H11ClN2O2
reactant | sodium hydride | [H-].[Na+]
reactant | β-bromo-ethyl methyl ether | 0.15 - 0.2 mol, 21-28 gm | COCCBr | C3H7BrO
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
product | 1-(β-Methoxy-ethyl)-5-phenyl-7-chloro-1H-1,5-benzodiazepine-2,4-(3H,5H)-dione | COCCN1C(CC(N(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O)=O | C18H17ClN2O3
